US06890942B2
4-(5-Acetylamino-[1,3,4]thiadiazole-2-sulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with N-(5-sulfamoyl-[1,3,4]thiadiazol-2-yl)-acetamide as described in the preparation of compound 1 to yield the title compound. LCMS (M+H) calcd for C16H17FN5O7S2: 474.1; found: 474.1. 1H NMR (500 MHz, DMSO) δ: 2.21 (s, 3), 3.62 (s, 3), 4.72 (s, 2), 6.32 (s, 1), 6.95 (m, 2), 7.22 (m, 2).

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | N-(5-sulfamoyl-[1,3,4]thiadiazol-2-yl)-acetamide | S(N)(=O)(=O)C1=NN=C(S1)NC(C)=O | C4H6N4O3S2
product | 4-(5-Acetylamino-[1,3,4]thiadiazole-2-sulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C=2SC(=NN2)NC(C)=O)O)=O)OC)C=C1 | C16H16FN5O7S2
